US07399775B2
2-[(4-Chlorophenyl)sulfonylmethyl]-1,4-difluorobenzene
Process 3: After addition of 2-bromomethyl-1,4-difluorobenzene (12.3 ml, 95.5 mmol) to a suspension of sodium 4-chlorobenzenesulfinate (19.0 g, 95.5 mmol) in butanol (200 ml), the mixture was heated under reflux for 5 hours. The solid thus precipitated was collected by filtration and dissolved in methylene chloride. The resulting solution was washed with brine, dried over MgSO4, and concentrated. The solid thus obtained was recrystallized from hexane, whereby the title compound (12.3 g, 43%) was obtained as colorless needle crystals.

reactant | 2-bromomethyl-1,4-difluorobenzene | 95.5 mmol, 12.3 ml | BrCC1=C(C=CC(=C1)F)F | C7H5BrF2
reactant | sodium 4-chlorobenzenesulfinate | 95.5 mmol, 19.0 g | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | butanol | 200 ml | C(CCC)O | C4H10O
product | 2-[(4-Chlorophenyl)sulfonylmethyl]-1,4-difluorobenzene | ClC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC(=C1)F)F | C13H9ClF2O2S
